US07579368B2
k) N-(2-Methoxy-ethyl)-2-piperazin-1-yl-acetamide
The title compound was prepared from 1-tert-butyloxycarbonyl-piperazine, chloroacetylchloride and 2-methoxyethylamine in an analogous manner as described in example 21.

reactant | 1-tert-butyloxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | N-(2-Methoxy-ethyl)-2-piperazin-1-yl-acetamide | COCCNC(CN1CCNCC1)=O | C9H19N3O2
